US07378441B2
1-(3-methyl-indazol-1-yl)-ethanone [Chem. Ber. 53; 1204 (1920)]
3-Methylindazole (1.00 g, 7.6 mmol) (J. Med. Chem. 2706 (1997)] was dissolved in 10 ml THF and stirred at room temperature under a blanket of argon. Pyridine (0.64 ml, 7.9 mmol) was added, followed by Ac2O (0.79 ml, 8.3 mmol) and catalytic DMAP (90 mg, 0.7 mmol). The reaction proceeded for 2 h and was then partitioned between 1N HCl and dichloromethane. The organic phase was dried over MgSO4 and concentrated under vacuum to a tan solid (1.2 g, 91% yield).

reactant | 3-Methylindazole | 7.6 mmol, 1.00 g | CC1=NNC2=CC=CC=C12 | C8H8N2
reactant | Pyridine | 7.9 mmol, 0.64 ml | N1=CC=CC=C1 | C5H5N
reactant | Ac2O | 8.3 mmol, 0.79 ml | CC(=O)OC(=O)C | C4H6O3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | DMAP | 0.7 mmol, 90 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-(3-methyl-indazol-1-yl)-ethanone | 1.2 g, 91% yield | CC1=NN(C2=CC=CC=C12)C(C)=O | C10H10N2O
